US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0303 g, 0.0656 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0550 mL, 0.394 mmol) and isopropanesulfonyl chloride (0.0220 mL, 0.197 mmol) to obtain 4-isopropanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0145 g, yield 39%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0656 mmol, 0.0303 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.394 mmol, 0.0550 mL | C(C)N(CC)CC | C6H15N
reactant | isopropanesulfonyl chloride | 0.197 mmol, 0.0220 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-isopropanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0145 g, yield 39% | C(C)(C)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C30H37N3O6S
